US07622589B2
12A) 5-Isopropenyl-2-(trifluoromethyl)pyridine
A mixture of 5-bromo-2-(trifluoromethyl)pyridine (452 mg, 2.0 mmol), potassium isopropenyltrifluoroborate (355 mg, 2.4 mmol), PdCl2(dppf).CH2Cl2 (82 mg, 0.1 mmol) and triethylamine (0.28 ml, 2.0 mmol) in n-propanol (20 ml) was treated in the same procedure as described in Example 10B. The crude residue was applied to a silica gel chromatography column and eluted with a volume mixture of hexane and EtOAc (20/1) to afford 219 mg (59% yield) of the title compound as a colorless oil.

reactant | 5-bromo-2-(trifluoromethyl)pyridine | 2.0 mmol, 452 mg | BrC=1C=CC(=NC1)C(F)(F)F | C6H3BrF3N
reactant | potassium isopropenyltrifluoroborate | 2.4 mmol, 355 mg | C(=C)(C)[B-](F)(F)F.[K+]
reactant | CH2Cl2 | 0.1 mmol, 82 mg | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 2.0 mmol, 0.28 ml | C(C)N(CC)CC | C6H15N
solvent | n-propanol | 20 ml | C(CC)O | C3H8O
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-Isopropenyl-2-(trifluoromethyl)pyridine | 219 mg, 59% yield | C(=C)(C)C=1C=CC(=NC1)C(F)(F)F | C9H8F3N
